US08278328B2
Description 120. 2-Amino-4-[(methyloxy)methyl]phenol. (D120)
A mixture of 4-[(methyloxy)methyl]-2-nitrophenol D119 (0.72 g, 3.93 mmol) and platinum (IV) oxide (0.089 g, 0.393 mmol) in ethanol (15 mL) was stirred under an atmosphere of hydrogen for 16 hr. The catalyst was removed by filtration through celite and the filtrate concentrated to dryness in vacuo to afford the title compound as a green/brown solid 0.51 g, 85%.

reactant | 4-[(methyloxy)methyl]-2-nitrophenol | COCC1=CC(=C(C=C1)O)[N+](=O)[O-] | C8H9NO4
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | platinum (IV) oxide | 0.393 mmol, 0.089 g | [Pt](=O)=O
product | 2-Amino-4-[(methyloxy)methyl]phenol | 0.51 g, 85% | NC1=C(C=CC(=C1)COC)O | C8H11NO2
